US03957782
c. 6-Ethoxy-1-ethyl-3-methyl-N-2-thiazolyl-1H-pyrazolo-[3,4-b]pyrazine-5-carboxamide
15.75 g. of 6-ethoxy-1-ethyl-3-methyl-1H-pyrazolo[3,4-b]-pyrazine-5-carbonyl chloride (0.058 mol.) are dissolved in 150 ml. of dry toluene. To this well cooled solution (ice/sodium chloride) a solution of 6.4 g. of 2-aminothiazole (0.638 mol.) and 6.5 g. of triethylamine (0.638 mol.) in 260 ml. of dry toluene is added dropwise under stirring. The reaction temperature is kept at -5° to -10°. Then stirring is continued at room temperature for 1 hour and at 50° for 1 hour. The precipitated triethylamine hydrochloride is filtered off and the toluene filtrate is removed in vacuo. Recrystallization of the residual 6-ethoxy-1-ethyl-3-methyl-N-2-thiazolyl-1H-pyrazolo[3,4-b]pyrazine-5-carboxamide gives 15.4 g. of product (78%), m.p. 158°-159°.

reactant | 6-ethoxy-1-ethyl-3-methyl-1H-pyrazolo[3,4-b]-pyrazine-5-carbonyl chloride | 0.058 mol | C(C)OC1=C(N=C2C(=N1)N(N=C2C)CC)C(=O)Cl | C11H13ClN4O2
reactant | 2-aminothiazole | 0.638 mol | NC=1SC=CN1 | C3H4N2S
reactant | triethylamine | 0.638 mol | C(C)N(CC)CC | C6H15N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 6-Ethoxy-1-ethyl-3-methyl-N-2-thiazolyl-1H-pyrazolo-[3,4-b]pyrazine-5-carboxamide | C(C)OC1=C(N=C2C(=N1)N(N=C2C)CC)C(=O)NC=2SC=CN2 | C14H16N6O2S
